US04624699
A solution of 2-fluoro-4-chloro-5-hydroxyphenylhydrazine (8 g) and 2-ethoxycarbonylcyclohexanone (8 g) in acetic acid (30 ml) was heated under reflux for 4 hours. After cooling, the precipitated crystals were collected by filtration and washed with ether to give 11 g of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-2,3a,4,5,6,7-hexahydroindazol-3-one. m.p. 273°-275° C. (decomp.).

reactant | 2-fluoro-4-chloro-5-hydroxyphenylhydrazine | 8 g | FC1=C(C=C(C(=C1)Cl)O)NN | C6H6ClFN2O
reactant | 2-ethoxycarbonylcyclohexanone | 8 g | C(C)OC(=O)C1C(CCCC1)=O | C9H14O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-2,3a,4,5,6,7-hexahydroindazol-3-one | 11 g | ClC1=CC(=C(C=C1O)N1N=C2CCCCC2C1=O)F | C13H12ClFN2O2
